US08124764B2
Methyl 3-(2-(4-(2-aminophenylcarbamoyl)phenylamino)pyrimidin-4-yl)-2-methylimidazo[1,2-a]pyridine-7-carboxylate
2-amino-isonicotinic acid methyl ester (500 mg, 3.28 mmol) was dissolved in NMP (5 ml). 3-chloro-pentane-2,4-dione (0.42 ml, 1.5 eq) was added and the reaction mixture was heated in a microwave at 125° C. for 10 minutes. The reaction mixture was then diluted with saturated aqueous solution of NaHCO3 and extracted with EtOAc. The organic phase was dried with MgSO4 and evaporated. The solids were purified by silica gel chromatography (Hex:EtOAc 1:3) to give Int-1. Int-1 (200 mg, 0.86 mmol) was suspended in DMF-DMA (5 mL) and heated in a microwave at 160° C. for 30 minutes. The solid Int-2 was filtered out and used for next step without further purification. To Int-2 (100 mg, 0.348 mmol) in DMF, 4-guanidino-benzoic acid-HCl salt (150 mg, 2.0 eq) and DBU (0.14 ml, 3 eq) was added and the mixture was heated in the a microwave at 140° C. for 10 minutes. The reaction mixture was then diluted with 1N HCl and extracted with EtOAc. The organic phase was dried and evaporated to Int-3 which was used for next step without additional purifications. Int-3 (50 mg, 0.124 mmol), benzene-1,2-diamine (23.7 mg, 2.0 eq), HOBt (16.76 mg, 1.0 eq) and triethylamine (TEA) (0.02 mL, 2.0 eq) were mixed together in NMP at room temperature to have Compound 4. The reaction mixture was diluted with EtOAc and washed with water. The organic phase was dried, evaporated and purified by reverse phase chromatography. MS found for C27H23N7O3 as (M+H)+ 494.32. 1H NMR (400 MHz, dmso-d6): δ 10.02 (s, 1H), 9.73 (d, J=7.6 Hz, 1H), 9.49 (s, 1H), 8.62 (d, J=5.2 Hz, 1H), 8.14 (s, 1H), 7.94-7.85 (m, 4H), 7.40 (dd, J=7.2, 5.6 Hz, 1H), 7.21 (d, J=5.6 Hz, 1H), 7.12 (d, J=7.6 Hz, 1H), 6.93 (dd, J=8.0, 1.6 Hz, 1H), 6.74 (d, J=8.0 Hz, 1H), 6.55 (d, J=8.0 Hz, 1H), 4.82 (s, 2H), 3.87 (s, 3H), 2.67 (s, 3H).

reactant | 2-amino-isonicotinic acid methyl ester | 3.28 mmol, 500 mg | COC(C1=CC(=NC=C1)N)=O | C7H8N2O2
reactant | 3-chloro-pentane-2,4-dione | 0.42 ml, 1.5 eq | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | 4-guanidino-benzoic acid-HCl salt | 150 mg, 2.0 eq | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | DBU | 0.14 ml, 3 eq | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzene-1,2-diamine | 23.7 mg, 2.0 eq | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | HOBt | 16.76 mg, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.02 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF-DMA | 5 mL | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 3-(2-(4-(2-aminophenylcarbamoyl)phenylamino)pyrimidin-4-yl)-2-methylimidazo[1,2-a]pyridine-7-carboxylate | NC1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC(=C2)C(=O)OC)C | C27H23N7O3
